US06683095B2
Synthesis of (E)3-[4-(benzyloxy)-3-methylphenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one
2-Hydroxy-5-methyl-3-nitroacetophenone (345 mg, 1.76 mmol) and 3-methyl-4-benzyloxybenzaldehyde (400 mg, 1.76 mmol) were reacted according to the same procedure as Preparation 22 to give 470 mg (Yield 66%) of the title compound.

reactant | 2-Hydroxy-5-methyl-3-nitroacetophenone | 1.76 mmol, 345 mg | CC1=CC(=C(C(=C1)C(=O)C)O)[N+](=O)[O-] | C9H9NO4
reactant | 3-methyl-4-benzyloxybenzaldehyde | 1.76 mmol, 400 mg | CC=1C=C(C=O)C=CC1OCC1=CC=CC=C1 | C15H14O2
product | (E)3-[4-(benzyloxy)-3-methylphenyl]-1-(2-hydroxy-5-methyl-3-nitrophenyl)-2-propen-1-one | 470 mg, Yield 66% | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)/C=C/C(=O)C1=C(C(=CC(=C1)C)[N+](=O)[O-])O)C | C24H21NO5
